US05028617
[2-(2-Ethoxyethoxy)-5-pyridyl]-methanol
40 ml of a 1M solution of borane in tetrahydrofuran are added dropwise at 0° C. to a solution of 2.11 g (10 mmol) of 6-(2-ethoxyethoxy)-nicotinic acid in 40 ml of abs. tetrahydrofuran. The mixture is stirred at room temperature for 3 hours and then acidified with concentrated hydrochloric acid, while cooling, then stirred for 30 minutes and evaporated to dryness. The residue is partitioned between ethyl acetate and saturated sodium carbonate solution, and the aqueous phase is extracted once more with ethyl acetate. The combined organic phases are washed with saturated NaCl solution, dried over sodium sulphate and evaporated. The residue crystallizes on trituration with pentane.

reactant | borane | B | BH3
reactant | 6-(2-ethoxyethoxy)-nicotinic acid | 10 mmol, 2.11 g | C(C)OCCOC1=NC=C(C(=O)O)C=C1 | C10H13NO4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [2-(2-Ethoxyethoxy)-5-pyridyl]-methanol | C(C)OCCOC1=NC=C(C=C1)CO | C10H15NO3
